US07259266B2
5-Chloro-6-ethyl-7-hydroxy-2-(trifluoromethyl)-2H-chromene-3-carboxylic acid
To a mixture of 100 mg (0.35 mmol) of 6-ethyl-7-hydroxy-2-(trifluoromethyl)-2H-chromene-3-carboxylic acid in 5 mL of anhydrous dichloromethane was added dropwise a solution of 0.42 mL (1.0 M in dichloromethane, 0.42 mmol) sulfuryl chloride. The resulting solution was stirred at room temperature for one hour. The sample was concd and the residue purified on a silica gel column with ethyl acetate:hexane: acetic acid to give 60 mg (52%) of a light yellow solid: 1H NMR(CDCl3/400 MHz) 7.71(s, 1H), 6.71(s, 1H), 5.99(s, 1H), 5.65(q, J=6.0 Hz, 1H), 2.38(m, 1H), 2.06(m, 1H), 0.84(t, J=7.6 Hz, 3H); MS (ESI+) 323.0 (M+1, 100); LCMS (ES−) 321 (M−H, 100); HRMS (ES−) m/z calcd for (M−1; C13H9ClF3O4) 321.0136, found 321.0118.

reactant | 6-ethyl-7-hydroxy-2-(trifluoromethyl)-2H-chromene-3-carboxylic acid | 0.35 mmol, 100 mg | C(C)C=1C=C2C=C(C(OC2=CC1O)C(F)(F)F)C(=O)O | C13H11F3O4
reactant | sulfuryl chloride | 0.42 mmol, 1.0 M, 0.42 mL | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 5-Chloro-6-ethyl-7-hydroxy-2-(trifluoromethyl)-2H-chromene-3-carboxylic acid | 60 mg, 52% | ClC1=C2C=C(C(OC2=CC(=C1CC)O)C(F)(F)F)C(=O)O | C13H10ClF3O4
